US07411072B2
2-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethanol
Dissolve (2-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)acetic acid methyl ester (1 equivalent) in a suitable dry solvent and cool to 0° C. under a dry atmosphere. Add 1M diisobutylaluminum hydride solution in toluene (3 equivalents) dropwise and stir the mixture for one hour. Quench with aqueous citric acid solution and partition between water and ethyl acetate. Dry and evaporate the organic layer to obtain the title compound in 87% yield.

reactant | (2-chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)acetic acid methyl ester | 1 equivalent | COC(C=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2)=O | C18H15ClO2
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | toluene | 3 equivalents | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Chloro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidene)-ethanol | 87% yield | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CCO)C=C1 | C17H15ClO
